US07282506B2
Preparation of 8-Bromo-[1,6]naphthyridin-2-ylamine dihydrochloride
(8-Bromo-[1,6]naphthyridin-2-yl)-carbamic acid tert-butyl ester (1 equiv.) is suspended in methanol (10 mL). Acetyl chloride (ca. 1 mL) is added over 1 minute. After the reaction mixture cools to ambient temperature, the solvent is brought briefly to reflux using a heat gun. The heat gun is applied twice more, at which point TLC (1:1 EtOAc:hexanes) indicated complete reaction. Concentration, followed by trituration twice with dry methanol affords the title compound as a white solid, LC/MS (M+H) 224.1.

reactant | (8-Bromo-[1,6]naphthyridin-2-yl)-carbamic acid tert-butyl ester | 1 equiv. | C(C)(C)(C)OC(NC1=NC2=C(C=NC=C2C=C1)Br)=O | C13H14BrN3O2
reactant | Acetyl chloride | ca. 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 8-Bromo-[1,6]naphthyridin-2-ylamine dihydrochloride | Cl.Cl.BrC=1C=NC=C2C=CC(=NC12)N | InChI=1S/C8H6BrN3.2ClH/c9-6-4-11-3-5-1-2-7(10)12-8(5)6;;/h1-4H,(H2,10,12);2*1H
